US04528288
Preparation of 7-Methyl-5-(N-methylamino)triazolo[1,5-c]pyrimidine
To a stirred solution of 3.4 g (20 mmole) of 5-chloro-7-methyltriazolo[1,5-c]pyrimidine in 50 ml of water was added 1.25 g (40 mmole) of methylamine as a 40% aqueous solution. The mixture was heated in an oil bath and thickened rapidly as a result. The solid was separated by filtration, and was then recrystallized from a benzene-hexane mixture with treatment with decolorizing charcoal. The product was white needles of 7-methyl-5-(N-methylamino)triazolo[1,5-c]pyrimidine, m.p. 162°-164° C. Analysis: Calculated for C7H9N5 : %C, 51.5; %H, 5.6; %N, 42.9; Found: %C, 51.6; %H, 5.4; %N, 43.1.

reactant | 5-chloro-7-methyltriazolo[1,5-c]pyrimidine | 20 mmole, 3.4 g | ClC1=CC=2N(C(=N1)C)N=NC2 | C6H5ClN4
reactant | methylamine | 40 mmole, 1.25 g | CN | CH5N
solvent | water | 50 ml | O | H2O
product | 7-Methyl-5-(N-methylamino)triazolo[1,5-c]pyrimidine | CC1=NC(=CC=2N1N=NC2)NC | C7H9N5
